US07105531B2
4-Chlorobenzo[4,5]thieno[3,2-b]pyridine-3-carbonitrile
A mixture of 1.01 g (4.47 mmol) of 4-hydroxybenzo[4,5]thieno[3,2-b]pyridine-3-carbonitrile in 7 mL of phosphorous oxychloride is heated at reflux temperature for 40 minutes, then cooled to room temperature. Hexane is added and the solid is collected by filtration, dissolved in ethyl acetate and washed with saturated sodium bicarbonate. The organic layer is dried over magnesium sulfate, filtered and concentrated in vacuo to a small volume. The solids are collected by filtration to give 696 mg (64%) of product, mp 305–308° C.

reactant | 4-hydroxybenzo[4,5]thieno[3,2-b]pyridine-3-carbonitrile | 4.47 mmol, 1.01 g | OC1=C2C(=NC=C1C#N)C1=C(S2)C=CC=C1 | C12H6N2OS
reactant | Hexane | CCCCCC | C6H14
reactant | phosphorous oxychloride | 7 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chlorobenzo[4,5]thieno[3,2-b]pyridine-3-carbonitrile | 696 mg, 64% | ClC1=C2C(=NC=C1C#N)C1=C(S2)C=CC=C1 | C12H5ClN2S
